US08629270B2
6a-Phenyl-1,3,3a,4,5,6-hexahydropyrrolo[3,4-c]isoxazole
5-Allyl-6a-phenyl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole (3.89 g, 16.89 mmol) is dissolved in chloroform (168 mL) and the solution is degassed with dry nitrogen for 10 minutes. N,N-Dimethylbarbituric acid (13.19 g, 84.45 mmol) is added to the solution and the solution is degassed with nitrogen for another 5 min. Tetrakis(triphenylphosphine) palladium (1.95 g, 1.69 mmol) is added and the reaction is stirred for 18 hours. 1 N Hydrochloric acid (50 mL) is added and the mixture is stirred for 20 minutes. The solution is extracted with aqueous hydrochloric acid (3×75 mL) and the combined HCl solution is washed with dichloromethane. The pH is adjusted to approximately 13 with 5 N sodium hydroxide solution. The mixture is extracted with dichloromethane (3×75 mL), dried over sodium sulfate, filtered, and concentrated to give the title compound (3.21 g, 92%). EI/MS (m/e): 191.3 (M+H).

reactant | 5-Allyl-6a-phenyl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole | 16.89 mmol, 3.89 g | C(C=C)N1CC2(NOCC2C1)C1=CC=CC=C1 | C14H18N2O
reactant | Hydrochloric acid | 1 N, 50 mL | Cl | ClH
solvent | chloroform | 168 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Tetrakis(triphenylphosphine) palladium | 1.69 mmol, 1.95 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6a-Phenyl-1,3,3a,4,5,6-hexahydropyrrolo[3,4-c]isoxazole | 3.21 g, 92% | C1(=CC=CC=C1)C12NOCC1CNC2 | C11H14N2O
